US07902194B2
5-tert-Butyl-3-ethoxy-3H-isobenzofuran-1-one
3.66 g (14.1 mmol) of 5-tert-Butyl-2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-benzaldehyde was weighed into a 200 mL round bottom flask fitted with a stir bar and reflux condenser. Added 75 mL of ethanol and stirred to obtain a clear solution. Added 50 mL of 50% aqueous sulfuric acid. Stirred at reflux for 22 hr. Poured the reaction mixture into 400 mL water. Extracted the aqueous mixture with 2×200 mL CH2Cl2. Combined the organic extracts and washed with 200 mL brine. Dried over Na2SO4 and removed the solvent on rotavap. Dried under high vacuum to obtain 2.9 g of the title compound as an off-white solid. MS (ESI) 235 (M+H)+.

reactant | 5-tert-Butyl-2-(4,4-dimethyl-4,5-dihydro-oxazol-2-yl)-benzaldehyde | 14.1 mmol, 3.66 g | C(C)(C)(C)C=1C=CC(=C(C=O)C1)C=1OCC(N1)(C)C | C16H21NO2
reactant | ethanol | 75 mL | C(C)O | C2H6O
reactant | sulfuric acid | 50 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 400 mL | O | H2O
product | 5-tert-Butyl-3-ethoxy-3H-isobenzofuran-1-one | 2.9 g | C(C)(C)(C)C=1C=C2C(OC(C2=CC1)=O)OCC | C14H18O3
